US06503907B2
4.8 g (13 mmol) 5-(4-Bromo-butoxy)-indole-1-carboxylic acid tert-butyl ester in 5 ml DMF were treated with 5 ml (48.1 mmol) diethylamine at 50° C. for 5 h. The solution was concentrated and extracted with ether and water. The combined organic phases were dried over Na2SO4 to yield 3.95 g (85%) 5-(4-Diethylamino-butoxy)-indole-1-carboxylic acid tert-butyl ester as yellow oil, MS: 361 (MH+).

reactant | 5-(4-Bromo-butoxy)-indole-1-carboxylic acid tert-butyl ester | 13 mmol, 4.8 g | C(C)(C)(C)OC(=O)N1C=CC2=CC(=CC=C12)OCCCCBr | C17H22BrNO3
reactant | diethylamine | 48.1 mmol, 5 ml | C(C)NCC | C4H11N
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 5-(4-Diethylamino-butoxy)-indole-1-carboxylic acid tert-butyl ester | 3.95 g, 85% | C(C)(C)(C)OC(=O)N1C=CC2=CC(=CC=C12)OCCCCN(CC)CC | C21H32N2O3
